US05082849
A mixture of 1.5g (6.41 mmoles) of 2-carboethoxy-7- hydroxy-4-oxo-4H-1-benzopyran, 1.82g (6.41 mmoles) of 2-3-chloromethylphenoxy)methylquinoline and 0.886 g of potassium carbonate in 12 ml of dimethylformamide and 96 ml of acetone is refluxed for 2 days, cooled, concentrated in vacuo and the residue taken up in water and is extracted into ethyl acetate. The solution is concentrated and the crude product is recrystallized from ethyl acetate to give 0.585g of 2-carboethoxy-7-(3-quinolin-2-ylmethoxy)benzyloxy)-4-oxo-4H-1-benzopyran as a pale yellow solid having an m.p. of 123°-24° C.

reactant | 2-carboethoxy-7- hydroxy-4-oxo-4H-1-benzopyran | 6.41 mmoles, 1.5g | C(=O)(OCC)C=1OC2=C(C(C1)=O)C=CC(=C2)O | C12H10O5
reactant | methylquinoline | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | potassium carbonate | 0.886 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | acetone | 96 ml | CC(=O)C | C3H6O
product | 4-oxo-4H-1-benzopyran | O=C1C=COC2=C1C=CC=C2 | C9H6O2
